US08623898B2
N-[[6-Fluoro-3′-(hydroxymethyl)biphenyl-3-yl]methyl]-1-methyl-N-(tetrahydro-2H-pyran-4-yl)-1H-1,2,4-triazole-3-carboxamide
A mixture of methyl 2′-fluoro-5′-([[(1-methyl-1H-1,2,4-triazol-3-yl)carbonyl](tetrahydro-2H-pyran-4-yl)amino]methyl)biphenyl-3-carboxylate (318 mg), ethanol (14 mL) and sodium borohydride (532 mg) was heated under reflux for 16 hours. After leaving the mixture to cool, water-acetone was added and extraction was conducted with chloroform. The organic layer was dried over anhydrous sodium sulfate. After filtering off the desiccant, the solvents were distilled off under reduced pressure and the resulting residue was purified by column chromatography (silica gel cartridge; methanol/chloroform=1:99 to 3:97) to give the titled compound (17 mg).

reactant | methyl 2′-fluoro-5′-([[(1-methyl-1H-1,2,4-triazol-3-yl)carbonyl](tetrahydro-2H-pyran-4-yl)amino]methyl)biphenyl-3-carboxylate | 318 mg | FC1=C(C=C(C=C1)CN(C1CCOCC1)C(=O)C1=NN(C=N1)C)C1=CC(=CC=C1)C(=O)OC | C24H25FN4O4
reactant | ethanol | 14 mL | C(C)O | C2H6O
reactant | sodium borohydride | 532 mg | [BH4-].[Na+]
solvent | water acetone | O.CC(=O)C
product | N-[[6-Fluoro-3′-(hydroxymethyl)biphenyl-3-yl]methyl]-1-methyl-N-(tetrahydro-2H-pyran-4-yl)-1H-1,2,4-triazole-3-carboxamide | 17 mg | FC1=CC=C(C=C1C1=CC(=CC=C1)CO)CN(C(=O)C1=NN(C=N1)C)C1CCOCC1 | C23H25FN4O3
